US07022851B2
N-{[4-N-(Benzhydryloxycarbonyl)-cytosin-1-yl]-acetyl}-N-[2-(2-nitro-benzenesulfonylamino)-ethyl]-glycine ethyl ester
The title compound (2.45 g, 88%) was synthesized by the reaction of N-[2-(2-nitro-benzenesulfonylamino)-ethyl]-glycine ethyl ester (1.33 g, 4 mmol) and 2-[4-N-(benzhydryloxycarbonyl)-cytosin-1-yl]-acetic acid (1.51 g, 4 mmol) as per the procedure of example 46. 1H-NMR (500 MHz; DMSO-d6) δ 10.99 (s, 0.6H,), 10.98 (s, 0.4H), 8.30˜7.80 (m, 5H), 7.50˜7.25 (m, 10H), 6.94 (t, 1H), 6.79 (s, 1H), 4.79 (s, 1.2H), 4.61 (s, 0.8H), 4.33 (s, 0.8H), 4.15 (q, 0.8H), 4.05 (q, 1.2H), 4.01 (s, 1.2H), 3.52 (t, 1.2H), 3.36 (t, 0.8H), 3.24 (q, 1.2H), 3.02 (q, 0.8H), 1.23 (t, 1.2H), 1.15 (t, 1.8H).

reactant | N-[2-(2-nitro-benzenesulfonylamino)-ethyl]-glycine ethyl ester | 4 mmol, 1.33 g | C(C)OC(CNCCNS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])=O | C12H17N3O6S
reactant | 2-[4-N-(benzhydryloxycarbonyl)-cytosin-1-yl]-acetic acid | 4 mmol, 1.51 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)NC1=NC(N(C=C1)CC(=O)O)=O | C20H17N3O5
product | N-{[4-N-(Benzhydryloxycarbonyl)-cytosin-1-yl]-acetyl}-N-[2-(2-nitro-benzenesulfonylamino)-ethyl]-glycine ethyl ester | 2.45 g, 88% | C(C)OC(CN(CCNS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C(CN1C(=O)N=C(NC(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C=C1)=O)=O | C32H32N6O10S
